US04252957
N-(Piperidinocarbonyl)nicotinamide
A mixture of N-(diphenylaminocarbonyl)nicotinamide (1.6 g., 0.005 mole), toluene (50 ml.), piperidine (1.28 g., 0.015 mole) and glacial acetic acid (0.86 ml.) is heated and stirred at 95°-97° C. for one hour. The mixture is cooled to room temperature and extracted with 1 N sodium hydroxide (50 ml.). The extract is acidified with glacial acetic acid and the oil which separates extracted with ethyl acetate. Evaporation of the extract under reduced pressure gives 1.9 g. of oil. The oil is taken up in ether (20 ml.), the solution made acid with ethyl acetate-HCl and then diluted with an equal volume of hexane to precipitate a gum. Trituration of the gum with acetone (10 ml.) affords the crystalline product; m.p. 162°-164° C.

reactant | N-(diphenylaminocarbonyl)nicotinamide | 0.005 mole, 1.6 g | C1(=CC=CC=C1)N(C(=O)NC(C1=CN=CC=C1)=O)C1=CC=CC=C1 | C19H15N3O2
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
reactant | piperidine | 0.015 mole, 1.28 g | N1CCCCC1 | C5H11N
reactant | ethyl acetate-HCl | Cl.C(C)(=O)OCC
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
solvent | acetic acid | 0.86 ml | C(C)(=O)O | C2H4O2
product | N-(Piperidinocarbonyl)nicotinamide | N1(CCCCC1)C(=O)NC(C1=CN=CC=C1)=O | C12H15N3O2
